US05804585
B. N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-2-(2-hydroxyethyl)-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide
A solution of N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxy-methyl)-2-[α-hydroxy-4,5-(methylenedioxy)-2-(2-{[(1,1-dimethylethyl)dimethylsilyl]oxy}ethyl)benzyl]thieno[2,3-b]pyridine-3-sulfonamide (0.29 g, 0.40 mmoles) in acetic acid (3 ml), H2O (1 ml) and THF (1 ml) was stirred at ambient temperature for 18 hours, then diluted with EtOAc (100 ml) and washed with sat. NaHCO3 (2×200 ml). The organic layer was dried (MgSO4), filtered and concentrated to collect 0.23 g (94%) of the title compound as a yellow oil.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxy-methyl)-2-[α-hydroxy-4,5-(methylenedioxy)-2-(2-{[(1,1-dimethylethyl)dimethylsilyl]oxy}ethyl)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.40 mmoles, 0.29 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=C(C=C1C(=C2)OCO1)CCO[Si](C)(C)C(C)(C)C)O)COCCOC)C | C31H40ClN3O9S2Si
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | H2O | 1 ml | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-2-(2-hydroxyethyl)-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=C(C=C1C(=C2)OCO1)CCO)O)COCCOC)C | C25H26ClN3O9S2
